US08729071B2
To a −78° C. solution of 5-formylpicolinonitrile (1.0 g, 7.58 mmol) and tetrabutylammonium triphenyldifluorosilicate (4.9 g, 9.10 mmol) in 60 mL of THF was added a solution of trimethyl(trifluoromethyl)silane (1.62 g, 114 mmol). The mixture was stirred for 20 min at −78° C. Then the cooling bath was changed to an ice bath. After stirring for another 30 min, the reaction was quenched with sat. NH4Cl(aq.). The mixture was extracted with EtOAc (3×). The organic layer was washed with sat. NaHCO3 (aq.), brine, then dried (MgSO4) and concentrated. The product 5-(2,2,2-trifluoro-1-hydroxyethyl)picolinonitrile (600 mg) was obtained by silica gel chromatography (elution with 0-40% EtOAc/Hex).

reactant | 5-formylpicolinonitrile | 7.58 mmol, 1.0 g | C(=O)C=1C=CC(=NC1)C#N | C7H4N2O
reactant | trimethyl(trifluoromethyl)silane | 114 mmol, 1.62 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-(2,2,2-trifluoro-1-hydroxyethyl)picolinonitrile | 600 mg | FC(C(O)C=1C=CC(=NC1)C#N)(F)F | C8H5F3N2O
